US06472412B1
A solution of oxalyl chloride (0.61 mL) in dichloromethane (11 mL) is cooled to −60° C. and dimethylsulphoxide (0.98 g) is added dropwise maintaining the reaction mixture at −60° C. After 15 minutes a solution of 3,4-dimethoxy-6-hydroxymethylpyridazine (1.0 g) in dichloromethane (42 mL) is added dropwise during 45 minutes maintaining the reaction mixture at −60° C. After a further 15 minutes triethylamine (3.96 mL) is added, the mixture stirred at −60° C. for 15 minutes then cooling is discontinued. When the reaction mixture attains room temperature stirring is continued for 1 hour. The reaction mixture is diluted with water (100 mL) and dichloromethane (100 mL) and the organic phase separated. The aqueous phase is re-extracted with dichloromethane (100 mL) and the combined extracts are dried (MgSO4). Evaporation gave 5,6-dimethoxypyridazine-3-carboxaldehyde (0.95 g) as a white solid, m.p. 179-81° C.

reactant | oxalyl chloride | 0.61 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulphoxide | 0.98 g | CS(=O)C | C2H6OS
reactant | 3,4-dimethoxy-6-hydroxymethylpyridazine | 1.0 g | COC=1N=NC(=CC1OC)CO | C7H10N2O3
reactant | triethylamine | 3.96 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 11 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 42 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5,6-dimethoxypyridazine-3-carboxaldehyde | 0.95 g | COC=1C=C(N=NC1OC)C=O | C7H8N2O3
